US08114887B2
To a 0° C. solution of 15 g (79 mmol) N-benzyl piperidone in 80 mL acetic acid was added 7.6 mL (79 mmol) 3-fluoro aniline followed by dropwise addition of 10.5 mL (79 mmol) trimethylsilylnitrile (TMSCN). The reaction mixture was allowed to warm to rt and stirred for 1 hr, then poured onto a mixture of 120 g ice and 120 g concentrated NH4OH. The resulting mixture was extracted 2×300 mL CH2Cl2 and the combined extracts washed with brine, dried over MgSO4, filtered, and concentrated. The residue was suspended in 100 mL diisopropylether and stirred 30 min and filtered to give 1-benzyl-4-[(3-fluorophenyl)amino]piperidine-4-carbonitrile. 1H NMR (CDCl3, 400 MHz) δ 7.26-7.35 (m, 5H); 7.19 (app q, J=8.06 Hz, 1H); 6.55-6.66 (m, 3H); 3.78 (s, 1H); 3.56 (s, 2H); 2.80 (br m, 2H); 2.48 (ddd, J=12.5, 12.5, 2.2 Hz, 2H); 2.35 (ddd, J=13.4, 2.56, 2.56 Hz, 2H); 1.92 (ddd, J=13.2, 13.2, 3.1 Hz, 2H) High resolution mass spec (FT/ICR) calc M+H=310.1714 found 310.1749.

reactant | N-benzyl piperidone | 79 mmol, 15 g | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | 3-fluoro aniline | 79 mmol, 7.6 mL | FC=1C=C(N)C=CC1 | C6H6FN
reactant | NH4OH | 120 g | [NH4+].[OH-]
reactant | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 1-benzyl-4-[(3-fluorophenyl)amino]piperidine-4-carbonitrile | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)NC1=CC(=CC=C1)F | C19H20FN3
